Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neck Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with past medical history of atrial 
fibrillation and pulmonary embolism on coumadin for 
anticoagulation (started ___ who presents to the EW with a 3 
day history of neck pain.
.
The patient was in his usual state of health until 3 days prior 
to admission. At that time he developed neck pain. He states he 
was brushing his teeth and the neck pain presented relatively 
suddenly. The pain was described as mild to moderate. He 
presented to the EW on ___ and a CT neck was done to rule out 
dissection. This examation was negative for dissection and the 
patient was sent home. However, radiology re-evaluated the CT 
neck and noted concern for intraspinal hemorrhage and an MRI was 
recommended. The patient re-presented to the EW on ___ after 
the EW contacted patient. He had an MRI which shows left 
posterolateral epidural hematoma extending from C2-C4 without 
enhancement post-contast. INR was noted to be 3.1. Ortho-spine 
was consulted in the EW and recommended stopping coumadin and 
admission to medicine. No indication to reverse INR with vit K 
or FFP at this time.
.
Currently, the patient feels well. He denies pain, weakness or 
numbness currently.
.
Review of systems:
(+) Per HPI, notes recent HA.
(-) Denies fever, chills, chest pain, nausea, vomiting.
 
Past Medical History:
s/p circumcision for phimosis ___
Paroxysmal a-fib dx ___
HTN
BPH
 
Social History:
___
Family History:
No history of bleeding or clotting disorders.
 
Physical Exam:
Vitals: T: 96.0 BP: 126/77 P: 62 R: 16 SaO2: 97% RA
General: well appearing, ___ speaking male, alert, oriented, 
no apparent distress
HEENT: sclera anicteric, MMM, oropharynx clear, dentures
Neck: supple, JVP not elevated, no LAD
Lungs: clear to auscultation bilaterally, no wheezes or crackles
CV: RR, nl rate, no murmurs, rubs or gallops appreciated
Abdomen: soft, obese, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CN II-XII intact. Motor 4+ bilateral triceps, deltoids. 5 
bilateral bicepts, fingers and wrist extensors and lower 
extremity exam. Sensation grossly intact with light touch. 2+ 
reflexes. (contrasted from ortho spine with 5 throughout).
 
Pertinent Results:
___ 10:35AM   GLUCOSE-95 UREA N-14 CREAT-1.2 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-27 ANION GAP-13
___ 10:35AM   WBC-7.2 RBC-4.21* HGB-13.8* HCT-40.4 MCV-96 
MCH-32.7* MCHC-34.1 RDW-14.9
___ 10:35AM   NEUTS-72.1* ___ MONOS-6.3 EOS-2.2 
BASOS-0.5
___ 10:35AM   PLT COUNT-202
___ 10:35AM   ___ PTT-27.7 ___

___ MRI C Spine
IMPRESSION: Left posterolateral epidural hematoma extending from 
C2-C4
without enhancement post-contrast.

___ LENIs
IMPRESSION: No deep venous thrombosis involving the right or 
left lower
extremity.

___ MRI C SPINE
Unchanged left posterolateral epidural collection extending from 
C2 to C4.
Appearances can be due to hematoma as suggested previously.
 
Brief Hospital Course:
___ male with history of atrial fibrillation and 
pulmonary embolism on coumadin with a 3 day history of neck pain 
and found to have epidural hemorrhage (C2-C4) without neurologic 
deficits.
.
#. Epidural hemorrhage:  The patient presented with a three day 
history of neck pain, and was found on CT and MRI to have a C2-4 
epidural hemorrhage.  The patient had no preceding trauma, thus 
was likely a spontaneous hemorrhage.  The patient had no 
neurologic deficits on his exam, and had a presentation INR of 
3.1.  The patient's INR drifted down without reversal to 1.7.  
The patient was evaluated by ortho spine during the admission, 
however in light of having admission and discharge MRI showing 
stable hematoma and no clinical evidence of cord compression, 
surgical intervention was deferred.  In light of this spontaeous 
hemorrhage, anticoagulation was discontinued indefinitely.  
- Follow up with ortho spine
.
#. PE: The patient had a large PE in ___. He has now been 
on anticoagulation for >3 months. ___ were performed on 
admission and were bilaterally negative.  Given his epidural 
hemorrhage, anticoagulation was discontinued
- No anticoagulation
.
#. Atrial fibrillation: Rate controlled, CHADS2 score is 2. Will 
continue metoprolol for rate and BP control.  As above, 
patient's anticoagulation was discontinued and risk/benefits 
were discussed with patient with a ___ interpreter present.  

.
#. HTN: Continue metoprolol 
.
#. BPH: Continue doxazosin 
 
Medications on Admission:
1. Cyanocobalamin 500 mcg Tablet Sig: Two (2) Tablet PO DAILY.
2. Doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS.
3. Warfarin 2 mg Tablet Sig: One (1) Tablet Daily.
4. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
DAILY.
 
Discharge Medications:
1. doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
2. metoprolol succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. cyanocobalamin (vitamin B-12) 1,000 mcg Tablet Sig: One (1) 
Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
- Cervical epidural hematoma
- Hypertension
- Atrial Fibrillation

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
You were hospitalized because you had neck pain.  An MRI 
revealed that you had a small hematoma between the bones in your 
neck and your spinal cord.  You had a repeat MRI that showed 
that this hematoma has not gotten bigger.

As we discussed, your coumadin and aspirin are being 
discontinued.  DO NOT restart these medications as this can 
cause bleeding in your neck that can make your condition worse 
and can be life threatening.

No other changes were made to your medication regimen.
 
Followup Instructions:
___